US07553840B2
2-Amino-4,6-dichloro pyrimidine (0.074 g, 0.45 mmol), 1-[2-(3,5-dimethyl-pyrazol-1-yl)-phenyl]-2,2,2-trifluoro-ethanol (0.120 g, 0.45 mmol), NaH (0.022 g, 0.59 mmol) were added to anhydrous THF (10 ml) under nitrogen atmosphere. The reaction was stirred at 40-45° C. for 6 h, and then cooled to room temperature, and quenched with water (0.2 ml). The reaction mixture was concentrated to give crude 4-chloro-6-{1-[2-(3,5-dimethyl-pyrazol-1-yl)-phenyl]-2,2,2-trifluoro-ethoxy]-pyrimidin-2-ylamine (0.195 g, >90% pure by LCMS) which was directly used in the following step.

reactant | 2-Amino-4,6-dichloro pyrimidine | 0.45 mmol, 0.074 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 1-[2-(3,5-dimethyl-pyrazol-1-yl)-phenyl]-2,2,2-trifluoro-ethanol | 0.45 mmol, 0.120 g | CC1=NN(C(=C1)C)C1=C(C=CC=C1)C(C(F)(F)F)O | C13H13F3N2O
reactant | NaH | 0.59 mmol, 0.022 g | [H-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-chloro-6-{1-[2-(3,5-dimethyl-pyrazol-1-yl)-phenyl]-2,2,2-trifluoro-ethoxy]-pyrimidin-2-ylamine | 0.195 g, >90% | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)N1N=C(C=C1C)C)N | C17H15ClF3N5O
